US04454320
5-(5-Methoxy-2-thienyl)oxazolidine-2,4-dione
5-Hydroxy-5-(5-methoxy-2-thienyl)-2,4,6(1H,3H,5H)-pyrimidinetrione (1.1 g.) was dissolved in 10 ml. of 1 N sodium hydroxide, allowed to stand for 1.5 hours at room temperature, extracted with ether, acidified with acetic acid, diluted with 15 ml. of water and filtered to yield product [567 mg., m.p. 144°-146° C. (dec.)]. Recrystallization from acetone-hexane gave purified 5-(5-methoxy-2-thienyl)oxazolidine-2,4-dione in two crops [487 mg., m.p. 147°-148° C. (dec.)].

reactant | 5-Hydroxy-5-(5-methoxy-2-thienyl)-2,4,6(1H,3H,5H)-pyrimidinetrione | 1.1 g | OC1(C(NC(NC1=O)=O)=O)C=1SC(=CC1)OC | C9H8N2O5S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 5-(5-Methoxy-2-thienyl)oxazolidine-2,4-dione | COC1=CC=C(S1)C1C(NC(O1)=O)=O | C8H7NO4S
